### PR TITLE
arch-split Interrupt_R

### PR DESCRIPTION
**Pull request by Xaphiosis**
🦆🦆🦆 This time few interface changes, so they got folded into the split commits. This needed all the maxIRQ work, which worked hopefully I cleaned up the fallout now. Again, please review commit-by-commit. Small file, but man was this whole thing a slog.

**Instructions:**

In real life, I did the usual addition of Interrupt_R, hierarchy update, arch-split and then update. However, since the arch-split part first splits AARCH64, then takes the AARCH64 version of Interrupt_R and only fixes what broke, we ended up with a small(er) diff there (again).

Please review commit-by commit with the following notes (some inconsistency with squash/wip/fake comments on the PR-only commits):
- `[squash] PR: copy AARCH64 version into ..._R` - same as last time: stop `..._R` looking like a wall of green (no need to review)
- `refine: arch-split `..._R (AARCH64 ONLY)` - this is the main bulk of the arch-split, dealing with AARCH64
- `[squash] copy AARCH64 Arch..._R to other arches` - wipes the *body* (not the header!) of other arches' Arch..._R with a copy of the AARCH64 version with `AARCH64` appropriately substituted - (mostly pointless to review)
- `[squash][fake] refine: arch-split ..._R (other arches) - result of fixing up the Arch..._R of other architectures - shows diff to AARCH64
- updates in downstream theories: only crefine and InfoFlowC this time

Reminder: DO NOT MERGE squashed version if it still says `aarch64 refine: arch-split` or `AARCH64`

Stats: 30 files changed, 2755 insertions(+), 4968 deletions(-)
Total: 2213 lines removed

### CODE REVIEW

File: proof/refine/Interrupt_R.thy [hunk 1]
```diff
@@ -1085,111 +378,393 @@ lemma resetTimer_invs'[wp]:
...
+    "\<And>i i'.
+     irq_handler_inv_relation i i' \<Longrightarrow>
+     corres dc \<top> \<top> (arch_invoke_irq_handler i) (Arch.invokeIRQHandler i')"
+  assumes arch_invoke_irq_control_invs'[wp]:
+    "\<And>i. \<lbrace>invs' and arch_irq_control_inv_valid' i\<rbrace> Arch.performIRQControl i \<lbrace>\<lambda>rv. invs'\<rbrace>"
+  assumes is_derived'_NotificationCap:
+    "\<And>ctes src cap cap'.
+     \<lbrakk>isNotificationCap cap; isNotificationCap cap'\<rbrakk>
+     \<Longrightarrow> is_derived' ctes src cap' cap
+        = (isNotificationCap cap \<and> badge_derived' cap' cap)"
```
Comment (lsf37) [inline proof/refine/Interrupt_R.thy]: I suspect we can leave out the `isNotificatoinCap cap` in the conclusion on the rhs, since we already have `isNotificationCap cap` in the assumptions

File: proof/refine/AARCH64/ArchInterrupt_R.thy [hunk 2]
```diff
@@ -1,79 +1,41 @@
...
 
-context begin global_naming global
+named_theorems Interrupt_R_assms
 
-(*FIXME: arch-split: move up *)
-requalify_types
-  Invocations_H.irqcontrol_invocation
+lemma maxIRQ_H_ucast_toEnum_eq_irq[Interrupt_R_assms]:
+  "x \<le> ucast maxIRQ \<Longrightarrow> toEnum (unat x) = (ucast x :: irq)" for x::machine_word
+  by (simp add: word_le_nat_alt maxIRQ_def Kernel_Config.maxIRQ_def)
```
Comment (lsf37) [inline proof/refine/AARCH64/ArchInterrupt_R.thy]: This should not unfold `Kernel_Config.max_IRQ_def`, but use `Arch_Kernel_Config_Lemmas.maxIRQ_ucast_toEnum_eq_irq` instead (i.e. should only need to unfold `maxIRQ_def`, not `Kernel_Config.max_IRQ_def`).

File: proof/refine/AARCH64/ArchInterrupt_R.thy [hunk 3]
```diff
@@ -84,114 +46,36 @@ where
...
   by (wp arch_check_irq_valid)
 
+lemma checkIRQ_irq_valid[Interrupt_R_assms]:
+  "\<lbrace>\<top>\<rbrace> checkIRQ irq \<lbrace>\<lambda>_ _. arch_valid_irq (toEnum (unat irq))\<rbrace>, -"
+  unfolding checkIRQ_def rangeCheck_def validE_R_def
+  supply hoare_vcg_prop[wp del]
+  apply (clarsimp simp: unlessE_def split del: if_split)
+  apply (wpsimp simp: maxIRQ_H_ucast_toEnum_eq_irq)
+  apply (simp add: word_le_nat_alt unat_ucast_upcast is_up unat_ucast_unat_id maxIRQ_def
+                   Kernel_Config.maxIRQ_def)
```
Comment (lsf37) [inline proof/refine/AARCH64/ArchInterrupt_R.thy]: `Kernel_Config.max_IRQ_def` should never be unfolded. Not sure if this is new or moved, but there should be an existing Arch_Kernel_Config_Lemmas lemma that does what is needed here. If not, we need to create a new one, otherwise this can fail when we change platforms.

File: proof/refine/ARM_HYP/ArchInterrupt_R.thy [hunk 4]
```diff
@@ -579,6 +578,8 @@ lemma invoke_arch_irq_handler_invs'[Interrupt_R_2_assms, wp]:
   "\<lbrace>invs' and irq_handler_inv_valid' i\<rbrace> Arch.invokeIRQHandler i \<lbrace>\<lambda>rv. invs'\<rbrace>"
   by (cases i; (wpsimp simp: ARM_HYP_H.invokeIRQHandler_def theIRQ_def | rule conjI)+)
 
+find_names resetTimer_underlying_memory_inv
+
```
Comment (lsf37) [inline proof/refine/ARM_HYP/ArchInterrupt_R.thy]: stray find_names. Looks like we don't have that one in our linter yet.

**Review by lsf37 — APPROVED** [review]
Cool, I think that works. There are two Kernel_Config.maxIRQ_def unfoldings that snuck in, which we should eliminate, but otherwise no problems from my side.

**Comment by Xaphiosis** [comment]
> Cool, I think that works. There are two Kernel_Config.maxIRQ_def unfoldings that snuck in, which we should eliminate, but otherwise no problems from my side.

Removed from Refine now, thanks. I think Ryan's going tot take care of the ones in InfoflowC.

File: proof/refine/ARM_HYP/ArchInterrupt_R.thy (hunk 4 above)
Comment (Xaphiosis) [reply proof/refine/ARM_HYP/ArchInterrupt_R.thy]: Would be good to add, yes. It's super useful when dealing with locale instantiations.

File: proof/refine/Interrupt_R.thy [hunk 5]
```diff
@@ -12,130 +12,80 @@ theory Interrupt_R
...
-| "irq_control_inv_valid' (IssueIRQHandler irq ptr ptr') =
-     (cte_wp_at' (\<lambda>cte. cteCap cte = NullCap) ptr and
-      cte_wp_at' (\<lambda>cte. cteCap cte = IRQControlCap) ptr' and
-      ex_cte_cap_to' ptr and real_cte_at' ptr and
-      (Not o irq_issued' irq) and K (irq \<le> maxIRQ))"
-
-context begin interpretation Arch . (*FIXME: arch-split*)
+lemma cap_relation_is_cap:
+  "cap_relation c c'
+   \<Longrightarrow> is_ntfn_cap c \<longleftrightarrow> isNotificationCap c'"
```
Comment (corlewis) [inline proof/refine/Interrupt_R.thy]: Should this be called `cap_relation_is_ntfn_cap`?

File: proof/refine/Interrupt_R.thy [hunk 6]
```diff
@@ -739,13 +272,7 @@ lemma timerTick_corres:
...
 
-lemma corres_return_VGICMaintenance [corres]:
-  "corres ((=) o arch_fault_map) (K (a=b)) \<top>
-          (return (AARCH64_A.VGICMaintenance a)) (return (AARCH64_H.VGICMaintenance b))"
-  by simp
-
-lemmas corres_gets_numlistregs [corres] = corres_gets_gicvcpu_numlistregs (* FIXME AARCH64: de-duplicate *)
-
+(* FIXME arch-split: move *)
 lemmas corres_eq_trivial = corres_Id[where f = h and g = h for h, simplified]
```
Comment (corlewis) [inline proof/refine/Interrupt_R.thy]: You moved similar lemmas to the start of this file, I guess this one could be as well?

File: proof/refine/Interrupt_R.thy [hunk 7]
```diff
@@ -1085,111 +378,393 @@ lemma resetTimer_invs'[wp]:
...
+  fixes arch_irq_control_inv_relation :: "arch_irq_control_invocation \<Rightarrow> Arch.irqcontrol_invocation \<Rightarrow> bool"
+  assumes arch_check_irq_inv:
+    "\<And>data P. arch_check_irq data \<lbrace>P :: det_state \<Rightarrow> bool\<rbrace>"
+  assumes arch_check_irq_valid':
+    "\<And>irq. \<lbrace>\<top>\<rbrace> arch_check_irq irq \<lbrace>\<lambda>_ (_::det_state). irq \<le> ucast maxIRQ\<rbrace>, \<lbrace>\<lambda>_. \<top>\<rbrace>"
+  (* not in [wp] to avoid clobbering checkIRQ_irq_valid *)
+  assumes checkIRQ_inv:
+    "\<And>irq P. checkIRQ irq \<lbrace>P\<rbrace>"
+  assumes checkIRQ_irq_valid:
+    "\<And>irq. \<lbrace>\<top>\<rbrace> checkIRQ irq \<lbrace>\<lambda>_ _. arch_valid_irq (toEnum (unat irq))\<rbrace>, -"
```
Comment (corlewis) [inline proof/refine/Interrupt_R.thy:407]: Almost definitely more fragile than we would want, but I think if both lemmas are `[wp]` in this order then it should use the right one.

File: proof/refine/Interrupt_R.thy [hunk 8]
```diff
@@ -1085,111 +378,393 @@ lemma resetTimer_invs'[wp]:
...
+      (Not o irq_issued' irq) and K (arch_valid_irq irq))"
+
+lemma decode_irq_handler_valid'[wp]:
+  "\<lbrace>\<lambda>s. invs' s \<and> (\<forall>cap \<in> set caps. s \<turnstile>' fst cap)
+        \<and> (\<exists>ptr'. cte_wp_at' (\<lambda>cte. cteCap cte = IRQHandlerCap irq) ptr' s)
+        \<and> (\<forall>cap \<in> set caps. \<forall>r \<in> cte_refs' (fst cap) (irq_node' s). ex_cte_cap_to' r s)
+        \<and> (\<forall>cap \<in> set caps. ex_cte_cap_wp_to' isCNodeCap (snd cap) s)
+        \<and> (\<forall>cap \<in> set caps. cte_wp_at' (badge_derived' (fst cap) \<circ> cteCap) (snd cap) s)
+        \<and> s \<turnstile>' IRQHandlerCap irq\<rbrace>
+     decodeIRQHandlerInvocation label irq caps
```
Comment (corlewis) [inline proof/refine/Interrupt_R.thy]: Old indentation

File: proof/refine/Interrupt_R.thy [hunk 9]
```diff
@@ -1085,111 +378,393 @@ lemma resetTimer_invs'[wp]:
...
 
-end
+locale Interrupt_R_2 = Interrupt_R +
+  assumes invoke_arch_irq_handler_invs'[wp]:
+    "\<And>i. \<lbrace>invs' and irq_handler_inv_valid' i\<rbrace> Arch.invokeIRQHandler i \<lbrace>\<lambda>rv. invs'\<rbrace>"
+begin
+
+lemma invoke_irq_handler_invs'[wp]:
+  "\<lbrace>invs' and irq_handler_inv_valid' i\<rbrace>
+    InterruptDecls_H.invokeIRQHandler i \<lbrace>\<lambda>rv. invs'\<rbrace>"
```
Comment (corlewis) [inline proof/refine/Interrupt_R.thy]: Old indentation

File: proof/refine/AARCH64/ArchInterrupt_R.thy [hunk 10]
```diff
@@ -1,79 +1,41 @@
...
  * Copyright 2020, Data61, CSIRO (ABN 41 687 119 230)
+ * Copyright 2023, Proofcraft Pty Ltd
  *
  * SPDX-License-Identifier: GPL-2.0-only
  *)
 
-(*
-   Refinement for interrupt controller operations
-*)
+(* Refinement for interrupt controller operations *)
```
Comment (corlewis) [inline proof/refine/AARCH64/ArchInterrupt_R.thy]: Very minor, similar comments in earlier files mention that they're arch-specific

File: proof/refine/ARM/ArchInterrupt_R.thy [hunk 11]
```diff
@@ -80,16 +81,24 @@ lemma isSGITargetValid_eq:
...
+  "\<lbrakk> sgi_target_valid w; 0 < numSGIs \<rbrakk> \<Longrightarrow> ucast (ucast w :: sgi_target) = w"
   unfolding sgi_target_valid_def gicNumTargets_def
-  by (simp flip: sgi_target_len_def add: ucast_ucast_le_mask mask_def sgi_target_len_val)
+  by (simp flip: sgi_target_len_def add: ucast_ucast_le_mask mask_def sgi_target_len_val
+                 zero_less_numSGIs_isGIC
+           split: if_splits)
 
 lemma sgi_irq_cast:
-  "w \<le> word_of_nat numSGIs - 1 \<Longrightarrow> ucast (ucast w :: sgi_irq) = (w :: machine_word)"
+  "\<lbrakk> w \<le> word_of_nat numSGIs - 1;  0 < numSGIs \<rbrakk> \<Longrightarrow>
```
Comment (corlewis) [inline proof/refine/ARM/ArchInterrupt_R.thy]: Extra space before second assumption

File: proof/refine/ARM_HYP/ArchInterrupt_R.thy (hunk 4 above)
Comment (corlewis) [reply proof/refine/ARM_HYP/ArchInterrupt_R.thy]: https://github.com/seL4/ci-actions/pull/493

File: proof/refine/X64/ArchInterrupt_R.thy [hunk 12]
```diff
@@ -98,44 +104,71 @@ lemma arch_decodeIRQControlInvocation_corres[Interrupt_R_assms]:
...
+               apply (clarsimp simp: arch_irq_control_inv_relation_def )
+              apply (wpsimp wp: isIRQActive_inv
+                          simp: invs_valid_objs invs_psp_aligned invs_valid_objs'
+                                invs_pspace_aligned' invs_pspace_distinct'
+                     | wp (once) hoare_drop_imps)+
+  by (auto split: arch_invocation_label.splits invocation_label.splits)
+
+lemma unat_add_ucast_helper:
+  "unat xm \<le> 107 \<Longrightarrow> unat (0x10 + UCAST(64 \<rightarrow> 8) xm) \<le> 125"
+  apply (subgoal_tac "unat (UCAST(64 \<rightarrow> 8) xm) = unat xm")
```
Comment (corlewis) [inline proof/refine/X64/ArchInterrupt_R.thy:170]: Not relevant to this PR but it would be nice to at least have a comment hinting towards what these magic numbers are referring to. For now, maybe we could add a FIXME?

**Review by corlewis — APPROVED** [review]
Very nice! Just a few style comments from my side.

File: proof/refine/X64/ArchInterrupt_R.thy (hunk 12 above)
Comment (Xaphiosis) [reply proof/refine/X64/ArchInterrupt_R.thy:170]: will add `(* FIXME: decrypt magic numbers *)`

File: proof/refine/ARM/ArchInterrupt_R.thy (hunk 11 above)
Comment (Xaphiosis) [reply proof/refine/ARM/ArchInterrupt_R.thy]: cheers

File: proof/refine/AARCH64/ArchInterrupt_R.thy (hunk 10 above)
Comment (Xaphiosis) [reply proof/refine/AARCH64/ArchInterrupt_R.thy]: Is `(* Architecture-specific refinement for interrupt controller operations *)` ok?

File: proof/refine/Interrupt_R.thy (hunk 7 above)
Comment (Xaphiosis) [reply proof/refine/Interrupt_R.thy:407]: I spent quite a while debugging the failures of these two (and their Refine friends) in `wpsimp | wp (once)` tangles. Having them explicitly in there informed what was going on and I was able to figure it out. If it were implicit, it would've been an even bigger headache. That was the origin of the comment, but now I'm not so sure the comment is very useful. Do you think I should maybe remove it?

File: proof/refine/Interrupt_R.thy (hunk 5 above)
Comment (Xaphiosis) [reply proof/refine/Interrupt_R.thy]: I think the intention was to put all the other generic ones there but then something went wrong between the chair and keyboard. Twice in fact, because it's never used. Sigh. Thanks.

File: proof/refine/Interrupt_R.thy (hunk 7 above)
Comment (corlewis) [reply proof/refine/Interrupt_R.thy:407]: I'm fine with leaving them out of `[wp]` in that case, and if we're doing that then I think the comment is very useful. Otherwise one of us will come across this in the future and add them back to `[wp]` without even thinking about it.

File: proof/refine/Interrupt_R.thy (hunk 1 above)
Comment (Xaphiosis) [reply proof/refine/Interrupt_R.thy]: Brain keyboard interface needs some work. Can't believe I missed this, and then also missed it again when going through PR comments. Will address that now.

**Comment by Xaphiosis** [comment]
Addressed final comment, rebased and squashed. Should be good to go once tests pass, but there was a conflict with the plic removal, so tests need to make sure I didn't overlook something.

**Comment by lsf37** [comment]
> Addressed final comment, rebased and squashed. Should be good to go once tests pass, but there was a conflict with the plic removal, so tests need to make sure I didn't overlook something.

👍 good to merge from my side when the tests pass
